US07601722B2
In an analogous manner to general procedure IV, 1-(2,3-difluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide (prepared in an analogous manner as described in general procedure I, 75 mg, 0.27 mmol) was treated with cesium carbonate (132 mg, 0.4 mmol) and α,α-dibromo-ortho-xylene (346 mg, 1.32 mmol) to give 68 mg of 1-[2-(bromomethyl)benzyl]-3-(2,3-difluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide.

reactant | 1-(2,3-difluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide | FC1=C(C=CC=C1F)N1S(NC2=C1C=CC=C2)(=O)=O | C12H8F2N2O2S
reactant | cesium carbonate | 0.4 mmol, 132 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | α,α-dibromo-ortho-xylene | 1.32 mmol, 346 mg | BrC(C=1C(=CC=CC1)C)Br | C8H8Br2
product | 1-[2-(bromomethyl)benzyl]-3-(2,3-difluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide | 68 mg | BrCC1=C(CN2S(N(C3=C2C=CC=C3)C3=C(C(=CC=C3)F)F)(=O)=O)C=CC=C1 | C20H15BrF2N2O2S
